US06514964B1
Step B: Methyl 2-(2-(N-(4-aminobut-1-yl)carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate
Methyl 2-(2-(N-(4-tertbutoxycarbonylaminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate was stirred in HCl in ethyl acetate (1.17M, 20 mL) at room temperature for 12 h. The solvent was removed under vacuum and the residue was trituated with ether. The product was diluted with methylene chloride and extracted with sodium hydroxide (0.5M). The organic phase was concentrated in vacuo and azeotroped with toluene to yield the product as a white solid. EI-MS m/z 334 (M+H)+

reactant | Methyl 2-(2-(N-(4-tertbutoxycarbonylaminobut-1-yl) carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate | C(C)(C)(C)OC(=O)NCCCCNC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C23H35N3O5
solvent | HCl | Cl | ClH
solvent | ethyl acetate | 1.17M, 20 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(2-(N-(4-aminobut-1-yl)carbamoyl)-1H,3H,4H-5H-benzo[e]azapin-5-yl)acetate | NCCCCNC(=O)N1CCC(C2=C(C1)C=CC=C2)CC(=O)OC | C18H27N3O3
